US04437877
4-Bromo-2-fluoro-5-hydroxyphenyl isocyanate (3 g) was dissolved in chlorobenzene (5 ml), and a solution of pipecolic acid (1.7 g) and sodium hydroxide (0.56 g) in water (5 ml) was added thereto, followed by stirring at room temperature (ca. 20° C.) overnight. The aqueous layer was washed with ether, made acidic with an aqueous hydrochloric acid solution and heated under reflux for 2 hours. After allowed to cool, the resulting mixture was extracted with methylene chloride (300 ml). The extract was washed with sodium bicarbonate solution, dried and concentrated. The residue was recrystallized from ether to give 1.75 g of 2-(4-bromo-2-fluoro-5-hydroxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-1,3(2H,8aH)-dione. M.P., 196°-199° C.

reactant | 4-Bromo-2-fluoro-5-hydroxyphenyl isocyanate | 3 g | BrC1=CC(=C(C=C1O)N=C=O)F | C7H3BrFNO2
reactant | pipecolic acid | 1.7 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | sodium hydroxide | 0.56 g | [OH-].[Na+]
solvent | chlorobenzene | 5 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 5 ml | O | H2O
product | 2-(4-bromo-2-fluoro-5-hydroxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-1,3(2H,8aH)-dione | 1.75 g | BrC1=CC(=C(C=C1O)N1C(N2C(CCCC2)C1=O)=O)F | C13H12BrFN2O3
